US05298652
The reaction of palmitoyl chloride with N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester as in Example 54 gave N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine ethyl ester as an oil after chromatography on silica gel using 35% ethyl acetate-hexane.

reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC(=C1)N)N)=O)=O | C15H21N3O5
product | N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxohexadecylamino)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)NC(CCCCCCCCCCCCCCC)=O)NC(CCCCCCCCCCCCCCC)=O)=O)CC(=O)OCC)=O | C47H81N3O7
